US07119086B2
1-(2-Pyrazinyl)piperazine
A mixture of 3 g of piperazine, 1.04 ml of 2-chloropyrazine and 1.85 g of K2CO3 in 100 ml of EtOH is refluxed for 48 hours. The reaction mixture is concentrated under vacuum, the residue is taken up in water and basified to pH 10 by addition of 10% NaOH, and extracted with chloroform, the organic phase is washed with water and dried over Na2SO4, and the solvent is evaporated off under vacuum. 1.8 g of the expected product are obtained after crystallization from hexane.

reactant | piperazine | 3 g | N1CCNCC1 | C4H10N2
reactant | 2-chloropyrazine | 1.04 ml | ClC1=NC=CN=C1 | C4H3ClN2
reactant | K2CO3 | 1.85 g | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH | 100 ml | CCO | C2H6O
product | 1-(2-Pyrazinyl)piperazine | 1.8 g | N1=C(C=NC=C1)N1CCNCC1 | C8H12N4
